Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Lumbar Spinal Stenosis 
 
Major Surgical or Invasive Procedure:
L4 and L5 Laminectomies and Facetectomies ___

 
History of Present Illness:
___ gentleman who had described neurogenic claudication
as well as left leg atrophy and weakness.  He tried two sessions
of physical therapy without any improvement.  He is doing a lot
of exercises at home and walks daily; although, he is unable to
walk long distances secondary to his severe left leg pain and
weakness that happens after 5 minutes of walking.  He feels that
he is losing sensation as well as muscle bulk.  No bowel or
bladder dysfunction.

He got a new MRI of his lumbar spine, and it shows persistent
epidural lipomatosis on the basis of the prior left L5-S1
discectomy.  The disc that was there at the L4-L5 area on the
left seems to have become smaller, but it does seem to still be
severe compromised with the conus as the result of the epidural
lipomatosis.

The patient continues to be disabled from that.  I had a long
discussion with him and I recommended L4-L5 laminectomies for
decompression.  Risks and benefits were discussed, and he wants
to go ahead immediately after the holidays.  We will book it for
___.

 
Past Medical History:
Lumbar back pain with radiculopathy
Dyslipidemia
Asthma
Bronchitis
COPD
 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
LLE with 4+/5 hamstrings, TA, ___. SILT throughout. Reports of 
LLE claudication after 5minutes of walking.

PHYSICAL EXAMINATION ON DISCHARGE:
Patient up and ambulating the halls frequently without Sx of 
claudication. 
Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right___
Left___

[ negative]Clonus [ ___ [ x]Sensation intact to
light touch throughout
[ x]Propioception intact

Wound: 
     Primary dressings replaced, CDI DSD to lumbar spine. No
sings of hematoma, seroma, infection, drainage. appropriate TTP.
Staples in place.
 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Lumbar Spinal Stenosis
The patient was taken to the operating room on the day of 
admission, ___ and underwent a L4 and L5 Laminectomies and 
Facetectomies. Please see operative note for full details. He 
tolerated the procedure well and was extubated in the operating 
room. He was then transferred to the PACU to recover and then to 
the floor for close neurologic monitoring overnight. On POD1 the 
patient was up and ambulating the halls frequently without Sx of 
neurogenic claudication. The patient was alert and oriented 
throughout his hospitalization; pain was well managed with IV+PO 
and then only PO pain regimen. He was discharged later that day 
on POD1, ___.
    At the time of discharge, the patient was doing well, 
afebrile and hemodynamically stable. The patient was tolerating 
a regular diet, ambulating, voiding without assistance, and pain 
was well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  

 
Medications on Admission:
Acetaminophen 
Albuterol
ASA
Ibuprofen
Lopid
Omeprazole
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl [Correctol] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
3.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 5 mg 1 tab by mouth as needed for muscle spasm Disp 
#*10 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
6.  Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 1 tab by mouth once a day Disp 
#*30 Tablet Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
8.  Gemfibrozil 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lumbar stenosis with neurogenic claudication of the LLE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Surgery: L4 and L5 Laminectomies and Facetectomies ___
•Your dressing may come off on the second day after surgery. 
•*** Your incision is closed with staples. You will need staple 
removal in ___ days. Please keep your incision dry until 
staple removal.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•*** You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs
 
Followup Instructions:
___